US04166115
This material was dissolved in ether (60 ml.) and a solution of diazomethane in ether was gradually added thereto under ice-cooling until the color of the mixture was changed to yellow. Acetic acid was immediately added thereto and the mixture was washed with a sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. Ether was distilled off to give oily residue (10.8 g.). The oily residue was subjected to column chromatography on silica gel (165 g.) using a mixture of benzene and ethyl acetate (9:1) as developing solvent. Firstly the eluate containing syn isomer was eluted and the eluate was collected and concentrated to give oily methyl 2-methoxyimino-2-(3-hydroxyphenyl)acetate (syn isomer) (7.9 g.). The oil was allowed to stand to give crystals, mp 39.5° to 40.5° C.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ether | 60 ml | CCOCC | C4H10O
product | methyl 2-methoxyimino-2-(3-hydroxyphenyl)acetate | 7.9 g | CON=C(C(=O)OC)C1=CC(=CC=C1)O | C10H11NO4
